R1 N001 N003 240
R2 N001 N002 10
R3 N001 N004 240
L1 N002 N005 1µ
L2 N006 N002 1µ
L3 N002 N002 10m
C1 N006 N005 330n
D1 N003 N006 D
D2 N004 N005 D
M1 N005 N003 0 0 IRFZ44N
M2 N006 N004 0 0 IRFZ44N
V1 N001 0 15
.model D D
.libC:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 200u
.backanno
.end
